US05167949
e) 2-[(2,3-Dichlorophenoxy)methyl]-4(3H)-pteridinone
Obtained using the procedure described in section b of Example 9, starting with 1.0 g (0.0031 mole) of 4-amino-2-[(2,3-dichlorophenoxy)methyl]pteridine in 35 ml of 5% aqueous sodium hydroxide. Heating time: 10 minutes under reflux. Yld: 0.5 g (50%), m.p. 219°-220.5° C. (ethanol).

reactant | 4-amino-2-[(2,3-dichlorophenoxy)methyl]pteridine | 0.0031 mole, 1.0 g | NC1=NC(=NC2=NC=CN=C12)COC1=C(C(=CC=C1)Cl)Cl | C13H9Cl2N5O
reactant | ethanol | C(C)O | C2H6O
solvent | sodium hydroxide | 35 ml | [OH-].[Na+]
product | 2-[(2,3-Dichlorophenoxy)methyl]-4(3H)-pteridinone | ClC1=C(OCC2=NC3=NC=CN=C3C(N2)=O)C=CC=C1Cl | C13H8Cl2N4O2
